US06156700
Preparation of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-N-methoxy-1,2-benzisothiazole-3-carboxamide
To a mixture of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid (4.00 g, 0.0108 mol), methylene chloride and tetrahydrofuran on an ice bath is added N,N-dimethylformamide (5 drops) followed by oxalyl chloride (13.5 ml, 0.0269 mol). The resultant mixture is stirred 90 minutes at ambient temperature and concentrated in vacuo. The residue is taken up in tetrahydrofuran and 25% of the solution is added to a mixture of O-methyl hydroxylamine hydrochloride (0.900 g, 0.0108 mol), tetrahydrofuran and triethylamine (2.25 ml, 0.0162 mol). The resultant mixture is stirred overnight at room temperature, poured into ice water, and extracted with methylene chloride. The organic layers are dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue is chromatographed on silica gel with methylene chloride to give the title compound as a light yellow solid (0.240 g, 22.3%, mp 125-127° C.).

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid | 0.0108 mol, 4.00 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(=O)O)C1)=O | C14H8F3N3O4S
reactant | oxalyl chloride | 0.0269 mol, 13.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | O-methyl hydroxylamine hydrochloride | 0.0108 mol, 0.900 g | Cl.CON
reactant | triethylamine | 0.0162 mol, 2.25 ml | C(C)N(CC)CC | C6H15N
catalyst | N,N-dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-N-methoxy-1,2-benzisothiazole-3-carboxamide | 0.240 g, 22.3% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(=O)NOC)C1)=O | C15H11F3N4O4S
